US04452851
Trifluoroacetic acid (14 ml) was added to a stirred suspension of benzhydryl 7-[2-(t-butoxycarbonylmethoxyimino)-2-(4-thiazolyl)acetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (3.5 g) in dichloromethane (7 ml) and anisole (3.5 ml) at ambient temperature and the mixture was stirred for 1.5 hours at the same temperature. To the resulting solution was added isopropyl ether (50 ml) and n-hexane (30 ml) and stirred. The precipitates were collected by filtration, washed with solution of isopropyl ether and n-hexane (1:1). The precipitates were added to a mixture of ethyl acetate and water and adjusted to pH 7.0 with saturated aqueous potassium carbonate. The separated aqueous layer was adjusted to pH 4.0 with 10% hydrochloric acid and the solution was washed with ethyl acetate. The aqueous layer was adjusted to pH 1.8 with 10% hydrochloric acid under ice cooling. The precipitates were filtered off, washed with cold water and dried over phosphorus pentoxide in vacuo to give 7-[2-(carboxymethoxyimino)-2-(4-thiazolyl)acetamido] -3-methylthio-3-cephem-4-carboxylic acid (syn isomer) (1.03 g).

reactant | Trifluoroacetic acid | 14 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-[2-(t-butoxycarbonylmethoxyimino)-2-(4-thiazolyl)acetamido]-3-methylthio-3-cephem-4-carboxylate | 3.5 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=CSC1 | C32H32N4O6S3
reactant | isopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
reactant | n-hexane | 30 ml | CCCCCC | C6H14
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | anisole | 3.5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(carboxymethoxyimino)-2-(4-thiazolyl)acetamido] -3-methylthio-3-cephem-4-carboxylic acid | 1.03 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)C=1N=CSC1 | C15H14N4O6S3
